US08426411B2
A solution of 4-(trifluoromethyl)nicotinic acid (1.50 g, 7.85 mmol) in EtOH (78 mL) was passed through an H-cube™ equipped with a ThalesNano CatCart® 10 wt % Pd/C catalyst cartridge at about 1.0 mL/min, at about 80° C., under about 1305 psi of hydrogen. After about 3 h, the solvent was removed under reduced pressure to afford cis-4-(trifluoromethyl)piperidine-3-carboxylic acid (1.55 g, 100% crude): LC/MS (Table 1, Method b) Rt=0.54 min; MS m/z: 198 (M+H)+.

reactant | 4-(trifluoromethyl)nicotinic acid | 7.85 mmol, 1.50 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 78 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | cis-4-(trifluoromethyl)piperidine-3-carboxylic acid | 1.55 g, 100% | FC([C@@H]1[C@@H](CNCC1)C(=O)O)(F)F | C7H10F3NO2
